US07511066B2
D. Methyl 2-(1-tert-Butoxycarbonylpiperidin-3-ylmethoxy)-4-isopropylbenzoate
The methyl 4-isopropyl-2-hydroxybenzoate (4.4 g, 22.7 mmol) was dissolved in THF (100 mL). Then 3-(hydroxy-methyl)-1-tert-butoxycarbonylpiperidine (4.88 g, 22.7 mmol) and triphenylphosphine (7.14 g, 27.24 mmol) were added. The mixture was placed in an ice bath, and then diisopropyl azodicarboxylate (4.59 g, 22.7 mmol) in methylene chloride (15 mL) was added dropwise. The reaction mixture was allowed to warm gradually to room temperature. After 16 h, the solvent was removed under vacuum. The solid residue was subjected directly to flash chromatography on silica (0 to 30% EtOAc in hexane gradient), giving the title compound (3.34 g, 43% yield) as an oil.

reactant | methyl 4-isopropyl-2-hydroxybenzoate | 22.7 mmol, 4.4 g | C(C)(C)C1=CC(=C(C(=O)OC)C=C1)O | C11H14O3
reactant | 3-(hydroxy-methyl)-1-tert-butoxycarbonylpiperidine | 22.7 mmol, 4.88 g | OCC1CN(CCC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | triphenylphosphine | 27.24 mmol, 7.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 22.7 mmol, 4.59 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-(1-tert-Butoxycarbonylpiperidin-3-ylmethoxy)-4-isopropylbenzoate | 3.34 g, 43% yield | C(C)(C)(C)OC(=O)N1CC(CCC1)COC1=C(C(=O)OC)C=CC(=C1)C(C)C | C22H33NO5
